US03936419
α-(p-Carbomethylbenzamido)-p-carbomethoxypropiophenone, obtained by reacting p-carbomethoxybenzamide with α-bromo-p-carbomethoxypropiophenone, was refluxed with phosphorus oxychloride in toluene to yield dimethyl-4,4'-(4-methyloxazol-2,5-diyl)dibenzoate, G. The VIII was obtained in a similar manner as in Example 1.

reactant | p-carbomethoxybenzamide | C(=O)(OC)C1=CC=C(C(=O)N)C=C1 | C9H9NO3
reactant | α-bromo-p-carbomethoxypropiophenone | BrC(C(=O)C1=CC=C(C=C1)C(=O)OC)C | C11H11BrO3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | dimethyl-4,4'-(4-methyloxazol-2,5-diyl)dibenzoate | COC(C1=CC=C(C=C1)C=1OC(=C(N1)C)C1=CC=C(C(=O)OC)C=C1)=O | C20H17NO5
